US08871777B2
3-Cyano-4-n-propoxybenzoic acid
NaOH (5.52 g, 0.138 mol) was dissolved in water (35 ml) under ice-bath, followed by slow addition of liquid bromine (3.5 ml, 0.068 mol) under cooling. After a solution of 5-acetyl-2-n-propoxybenzonitrile (7 g, 0.034 mol) in dioxane (35 ml) was slowly added dropwise thereto, the reaction continued for 2 h. The reaction mixture was adjusted slowly to a pH of about 2 with a diluted hydrochloric acid to generate a large amount of light yellow solid. After filtered, the resultant solid was washed with ethyl acetate, and filtered to obtain the title compound (6.5 g, yield: 92%). 1H NMR (CDCl3) δ: 13.21 (1H, br), 8.18 (1H, d), 8.15 (1H, dd), 7.34 (1H, d), 4.18 (2H, t), 1.79 (2H, m), 1.00 (3H, t).

reactant | NaOH | 0.138 mol, 5.52 g | [OH-].[Na+]
reactant | bromine | 0.068 mol, 3.5 ml | BrBr | Br2
reactant | 5-acetyl-2-n-propoxybenzonitrile | 0.034 mol, 7 g | C(C)(=O)C=1C=CC(=C(C#N)C1)OCCC | C12H13NO2
reactant | hydrochloric acid | Cl | ClH
solvent | water | 35 ml | O | H2O
solvent | dioxane | 35 ml | O1CCOCC1 | C4H8O2
product | 3-Cyano-4-n-propoxybenzoic acid | 6.5 g, yield: 92% | C(#N)C=1C=C(C(=O)O)C=CC1OCCC | C11H11NO3
